### PR TITLE
[Merged by Bors] - feat(Topology/EMetricSpace/Lipschitz): add lemmas with swapped arguments

### PR DESCRIPTION
**Pull request by winstonyin**
The existing series of lemmas on the continuity of `f : α × β → γ` requires Lipschitz continuity in `α` and continuity in `β`. I add a series of mirror lemmas with the argument positions swapped, i.e. continuity in `α` and Lipschitz continuity in `β`. This improves usability, for example, in the Picard-Lindelöf theorem, where the time-dependent vector field is typically assumed to be continuous in time (the first component) and Lipschitz continuous in space (the second component).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Prod.lean [hunk 1]
```diff
@@ -232,6 +232,9 @@ theorem preimage_swap_prod (s : Set α) (t : Set β) : Prod.swap ⁻¹' s ×ˢ t
 theorem image_swap_prod (s : Set α) (t : Set β) : Prod.swap '' s ×ˢ t = t ×ˢ s := by
   rw [image_swap_eq_preimage_swap, preimage_swap_prod]
 
+theorem mapsTo_swap_prod {s : Set α} {t : Set β} : MapsTo Prod.swap (s ×ˢ t) (t ×ˢ s) :=
+  fun _ ⟨hx, hy⟩ ↦ ⟨hy, hx⟩
```
Comment (EtienneC30) [inline Mathlib/Data/Set/Prod.lean:236]: Don't we want the arguments to be explicit here?

File: Mathlib/Topology/EMetricSpace/Lipschitz.lean [hunk 2]
```diff
@@ -478,3 +478,35 @@ theorem continuous_prod_of_continuous_lipschitzWith [PseudoEMetricSpace α] [Top
...
+    [PseudoEMetricSpace β] [PseudoEMetricSpace γ] (f : α × β → γ) (K : ℝ≥0) {t : Set β}
+    (ht : Dense t) (ha : ∀ a, LipschitzWith K fun y => f (a, y))
+    (hb : ∀ b ∈ t, Continuous fun x => f (x, b)) : Continuous f :=
+  have : Continuous (f ∘ Prod.swap) :=
+    continuous_prod_of_dense_continuous_lipschitzWith _ K ht hb ha
+  this.comp continuous_swap
+
+theorem continuous_prod_of_continuous_lipschitzWith' [TopologicalSpace α] [PseudoEMetricSpace β]
+    [PseudoEMetricSpace γ] (f : α × β → γ) (K : ℝ≥0) (ha : ∀ a, LipschitzWith K fun y => f (a, y))
+    (hb : ∀ b, Continuous fun x => f (x, b)): Continuous f :=
```
Comment (EtienneC30) [inline Mathlib/Topology/EMetricSpace/Lipschitz.lean:509]:
```suggestion
    (hb : ∀ b, Continuous fun x => f (x, b)) : Continuous f :=
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/Data/Set/Prod.lean (hunk 1 above)
Comment (winstonyin) [reply Mathlib/Data/Set/Prod.lean]: You're right. Fixed!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
